US08207186B2
N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide
7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (5.00 g. 15.7 mmol), methyl sulfonamide (1.49 g, 15.7 mmol), Pd2(dba)3 (0.714 g, 0.78 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino) xanthene (XANTPHOS) (1.36 g, 2.35 mmol) and cesium carbonate (15.3 g, 47.0 mmol) were added to a dry flask through which argon was purged. The flask was charged with 100 mL of dry dioxane and argon was bubbled through the solution for 10 minutes. The reaction mixture was heated to 95° C. and stirred under argon. After 12 hours, the reaction mixture was concentrated and dissolved in 2000 mL ethyl acetate and 1000 mL water. The organic layer was separated and washed with 500 mL of brine, dried with magnesium sulfate, filtered, and concentrated. The resultant solids were dissolved in 150 mL of a 3:1 mixture of hot dichloromethane/methanol and allowed to cool to ambient temperature with stirring. After 3 h, 150 mL of hexanes were added and the resulting slurry was allowed to stir. After 12 hours, an additional 50 mL hexanes were added. After 4 hours, the solids were filtered and dried to afford the title compound.

reactant | 7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 15.7 mmol, 5.00 g | BrC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1 | C14H7BrClNO
reactant | methyl sulfonamide | 15.7 mmol, 1.49 g | CS(=O)(=O)N | CH5NO2S
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino) xanthene | 2.35 mmol, 1.36 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 47.0 mmol, 15.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.78 mmol, 0.714 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)C | C15H11ClN2O3S
